US05444084
Preparation of (E)-2-(6,6-dimethyl-2,4-heptadiynyl)-3-[3-[2-[3-(3-thienyl)phenyl]ethenyl]phenyl]propanol
980 mg of (E)-2-(6,6-dimethyl-2,4-heptadiynyl)-3-[3-[2-[3-(3-thienyl)phenyl]ethenyl]phenyl]propionic acid is dissolved in 20 ml of ethyl ether, 132 mg of lithium aluminum hydride is added in several portions thereto under ice cooling and stirring, and the mixture is stirred at that temperature for 10 minutes. Saturated saline is added to the reaction solution to decompose the excessive reducing agent, and 20 ml of 10% aqueous citric acid solution and 30 ml of ethyl ether are added to form two liquid phases. The organic layer is taken, washed successively with 5% aqueous sodium bicarbonate solution and saturated saline, and dried over anhydrous sodium sulfate. The desiccating agent is filtered, the solvent is distilled off under reduced pressure, and the residue is crudely purified by silica gel short column chromatography [hexane/ethyl acetate=1/1] and then purified by medium pressure liquid chromatography [column: Lobar column, size B, Lichroprep Si 60 F (produced by Merck Co.); eluent: hexane/ethyl acetate=5/1→3/1 ] to obtain 625 mg (yield: 68%) of the captioned compound as a colorless oily matter.

reactant | (E)-2-(6,6-dimethyl-2,4-heptadiynyl)-3-[3-[2-[3-(3-thienyl)phenyl]ethenyl]phenyl]propionic acid | 980 mg | CC(C#CC#CCC(C(=O)O)CC1=CC(=CC=C1)\C=C\C1=CC(=CC=C1)C1=CSC=C1)(C)C | C30H28O2S
reactant | lithium aluminum hydride | 132 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | citric acid | 20 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | (E)-2-(6,6-dimethyl-2,4-heptadiynyl)-3-[3-[2-[3-(3-thienyl)phenyl]ethenyl]phenyl]propanol | 625 mg, yield: 68% | CC(C#CC#CCC(CO)CC1=CC(=CC=C1)\C=C\C1=CC(=CC=C1)C1=CSC=C1)(C)C | C30H30OS
